US08030302B2
Ethyl 4,6-dimethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate
A suspension of ethyl 4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carboxylate (7.5 g, 0.038 mol), phenylboronic acid (14.1 g, 0.115 mol), cupric acetate (1.38 g, 0.008 mol), pyridine (7.5 mL) in 1,4-dioxane (80 mL) is heated at 80° C. for 96 hours. The solid is filtered off and the filtrate is concentrated. The residue is partitioned with EtOAc (50 mL) and 2N HCl (70 mL), and the precipitate is collected by filtration and washed with EtOAc to give the title product (2.95 g). The EtOAc solution is separated, dried and concentrated. The residue is purified by silica gel column chromatography eluting with PE:acetone (2:1) to give another portion of (0.3 g). (3.25 g, 31.2% yield). MS (m/z): 272.0 (M+H).

reactant | ethyl 4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 0.038 mol, 7.5 g | CC1=C(C(NC(=C1)C)=O)C(=O)OCC | C10H13NO3
reactant | phenylboronic acid | 0.115 mol, 14.1 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 7.5 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | Ethyl 4,6-dimethyl-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylate | 2.95 g, 31.2% yield | CC1=C(C(N(C(=C1)C)C1=CC=CC=C1)=O)C(=O)OCC | C16H17NO3
